US06903085B1
Step i: 8-[(3,4-Dichlorophenyl)methyl]-8-azabicyclo[3.2.1]octan-3-one
2,5-Dimethoxytetrahydrofuran (4.92 g) was stirred in hydrochloric acid (1M, 25 ml) for 1 hour. 3,4-Dichlorobenzylamine (5 ml) was added to hydrochloric acid (1M, 15 ml) and the resulting suspension was added to the first solution. Phosphate buffer solution (pH 5.5, 250 ml) was added followed by sodium hydroxide (1.6 g). A solution of acetone dicarboxylic acid (4.77 g) in phosphate buffer solution (pH 5.5, 90 ml) was added to the mixture and the solution was stirred. A yellow solid formed and the mixture was left to stand for 64 h. The aqueous supernatant was decanted and hydrochloric acid (2.5M) was added to the solid along with ethyl acetate. The layers were separated and the aqueous phase was extracted twice with dichloromethane containing a little methanol. The organic layers were combined and evaporated to give a crude oil (ca 7 g). A portion of the product (ca 2.5 g) was purified by chromatography eluting with dichloromethane:methanol (19:1) to give the subtitle compound (1.62 g) as a yellow oil.

reactant | 2,5-Dimethoxytetrahydrofuran | 4.92 g | COC1OC(CC1)OC | C6H12O3
reactant | 3,4-Dichlorobenzylamine | 5 ml | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
reactant | acetone dicarboxylic acid | 4.77 g | CC(=O)C.C(=O)O.C(=O)O
solvent | hydrochloric acid | 1M, 25 ml | Cl | ClH
solvent | phosphate | 90 ml, pH 5.5 | P(=O)([O-])([O-])[O-]
solvent | Phosphate | 250 ml, pH 5.5 | P(=O)([O-])([O-])[O-]
solvent | hydrochloric acid | 1M, 15 ml | Cl | ClH
product | 8-[(3,4-Dichlorophenyl)methyl]-8-azabicyclo[3.2.1]octan-3-one | 1.62 g | ClC=1C=C(C=CC1Cl)CN1C2CC(CC1CC2)=O | C14H15Cl2NO
